US03974155
Triethylamine (1.0 g) and 4-methoxypiperidine (1.15 g) were added to a solution of 4-nitro-2-trifluoromethylbenzene sulphonyl chloride (2.89 g) in methylene chloride (40 ml). The mixture was stirred at 25°C. for 2 hours and then evaporated to dryness in vacuo. The residual oil was triturated with 1:1 aqueous isopropanol and the resulting solid was recrystallized from isopropanol to give 1-(4-methoxypiperidinosulphonyl)-4-nitro-2-trifluoromethyl-benzene, m.p. 141°-143°C.

reactant | Triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxypiperidine | 1.15 g | COC1CCNCC1 | C6H13NO
reactant | 4-nitro-2-trifluoromethylbenzene sulphonyl chloride | 2.89 g | [N+](=O)([O-])C1=CC(=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3ClF3NO4S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxypiperidinosulphonyl)-4-nitro-2-trifluoromethyl-benzene | COC1CCN(CC1)S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H15F3N2O5S
